US05468699
A silicalite-titania-silica hybrid membrane was prepared using the sol gel technique and suction method as follows. A silicalite-impregnated substrate was prepared as in Example 1. 0.4903 g H2O and 0.0789 g HCl (37% aqueous solution) were diluted in 9.000 g of anhydrous isopropanol. 2.5560 g of titanium tetraisopropoxide and 0.2080 g of silicon tetraethoxide were added to 9.0000 g of anhydrous isopropanol. The H2O--HCl-iPrOH solution was added slowly to the Ti(OiPr)4 --Si(OEt)4 -isopropanol solution with a magnetic stirrer to yield a titania-silica hybrid sol. A silicalite-titania-silica hybrid membrane was formed using the sol and the method of Example 1.

reactant | H2O | 0.4903 g | O | H2O
reactant | HCl | 0.0789 g | Cl | ClH
reactant | silicon tetraethoxide | 0.2080 g | [O-]CC.[O-]CC.[O-]CC.[O-]CC.[Si+4]
solvent | isopropanol | 9.000 g | C(C)(C)O | C3H8O
catalyst | titanium tetraisopropoxide | 2.5560 g | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
catalyst | Ti(OiPr)4 | CC(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
solvent | isopropanol | 9.0000 g | C(C)(C)O | C3H8O
product | Si(OEt)4 isopropanol | [Si](OCC)(OCC)(OCC)OCC.C(C)(C)O | InChI=1S/C8H20O4Si.C3H8O/c1-5-9-13(10-6-2,11-7-3)12-8-4;1-3(2)4/h5-8H2,1-4H3;3-4H,1-2H3
